US08232289B2
Palladium(II)trifluoroacetate (5.1 mg, 15.3 mmoles) and 4,7-diphenyl-phenanthroline (5.1 mg, 15.3 mmoles) are dissolved in n-butyl vinyl ether (6.1 mL, 61.2 mmol) and 1-(3-hydroxymethyl-pyridin-2-yl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (800 mg, 3.1 mmol) and a few drops of triethylamine are added. The flask is sealed and stirred at 75° C. for 24 hours. Then the mixture is cooled to 24° C. and filtrated through a pad of celite. The solvent is eliminated under reduced pressure and the residue is purified by normal phase Isco chromatography using hexane and ethyl acetate as eluents (5-20% in ethyl acetate) to give 605 mg of ethyl 3-methyl-1-[3-(vinyloxymethyl)-2-pyridyl]pyrazole-4-carboxylate. MS (m/z): 288 (M+1)

reactant | 4,7-diphenyl-phenanthroline | 15.3 mmoles, 5.1 mg | C1(=CC=CC=C1)C1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1 | C24H16N2
reactant | n-butyl vinyl ether | 61.2 mmol, 6.1 mL | C(=C)OCCCC | C6H12O
reactant | 1-(3-hydroxymethyl-pyridin-2-yl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 3.1 mmol, 800 mg | C(C)OC(=O)C=1C(=NN(C1)C1=NC=CC=C1CO)C | C13H15N3O3
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
catalyst | Palladium(II)trifluoroacetate | 15.3 mmoles, 5.1 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
product | ethyl 3-methyl-1-[3-(vinyloxymethyl)-2-pyridyl]pyrazole-4-carboxylate | 605 mg | CC1=NN(C=C1C(=O)OCC)C1=NC=CC=C1COC=C | C15H17N3O3
